US05559244
1. 3-Hydroxy-1-(4-methoxyphenyl)pyrazole
A solution of 72.7 g of 4-methoxyphenylhydrazine in 700 ml of tert-butanol was treated dropwise at 30° C. with 56.8 g of ethyl propiolate. A total of 118 g of potassium tert-butoxide was then introduced in portions with ice cooling into the mixture thus obtained. After 12 h at 25° C., the solvent was distilled off under reduced pressure and the residue thus obtained was taken up in water. The aqueous solution was washed with dichloromethane and then acidified with conc. acetic acid with cooling to a pH of 9, the product being deposited as a solid. After washing and drying, 60.3 g of the title compound (60% of theory) were obtained; m.p.: 167°-170° C.

reactant | 4-methoxyphenylhydrazine | 72.7 g | COC1=CC=C(C=C1)NN | C7H10N2O
reactant | ethyl propiolate | 56.8 g | C(C#C)(=O)OCC | C5H6O2
reactant | potassium tert-butoxide | 118 g | CC(C)([O-])C.[K+]
solvent | tert-butanol | 700 ml | C(C)(C)(C)O | C4H10O
solvent | water | O | H2O
product | 3-Hydroxy-1-(4-methoxyphenyl)pyrazole | 60.3 g, 60% | OC1=NN(C=C1)C1=CC=C(C=C1)OC | C10H10N2O2
